US07326685B2
Preparation of Thiocolchicine
Colchicine (1.25 mmole) was dissolved in 10.0 mL of water to which was added sodium methanethiolate (7.13 mmol). The yellow solution was stirred for 24 hours, then extracted 3× with ETOH:Chloroform (1:1), then evaporated to yield the desired compound as yellow crystals.

reactant | Colchicine | 1.25 mmole | CC(=O)N[C@H]1CCC=2C=C(C(=C(C2C3=CC=C(C(=O)C=C13)OC)OC)OC)OC | C22H25NO6
reactant | sodium methanethiolate | 7.13 mmol | C[S-].[Na+]
solvent | water | 10.0 mL | O | H2O
product | Thiocolchicine | CC(=O)N[C@H]1CCC2=CC(=C(C(=C2C3=CC=C(C(=O)C=C13)SC)OC)OC)OC | C22H25NO5S
